US04987233
To a 250 ml, 3-neck flask, with an agitator and condenser were added 22.0 g (0.25 mol) of 1,3-dimethylurea, 25.3 g (0.25 mol) of dipropylamine and 100 ml of cumene. The solution was heated at reflux (about 137° C.) for about 12 hours, cooled to 100° C., and the solvent was removed using vacuum distillation to provide a residue. The residue was dried in a vacuum oven at 60° C. to provide 41.5 g of 1,1-dipropyl-3-methylurea.

reactant | 1,3-dimethylurea | 0.25 mol, 22.0 g | CNC(=O)NC | C3H8N2O
reactant | dipropylamine | 0.25 mol, 25.3 g | C(CC)NCCC | C6H15N
solvent | cumene | 100 ml | C1(=CC=CC=C1)C(C)C | C9H12
product | 1,1-dipropyl-3-methylurea | 41.5 g | C(CC)N(C(=O)NC)CCC | C8H18N2O
